US07495103B2
A mixture of Ph3P (138.0 g, 526 mmol), Et3N (21.3 g, 211 mmol), CCl4 (170 mL) and TFA (20 g, 175 mmol) was stirred for 10 min in an ice-bath. Aniline (19.6 g, 211 mmol) was dissolved in CCl4 (20 mL) was added. The mixture was stirred at reflux for 3 h. The solvent was removed under vacuum and hexane was added. The precipitates (Ph3PO and Ph3P) were filtered off and washed with hexane. The filtrate was distilled under reduced pressure to yield 2,2,2-trifluoro-N-phenyl-acetimidoyl chloride (19 g), which was used in the next step without further purification.

reactant | Ph3P | 526 mmol, 138.0 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | Et3N | 211 mmol, 21.3 g | CCN(CC)CC | C6H15N
reactant | TFA | 175 mmol, 20 g | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | Aniline | 211 mmol, 19.6 g | NC1=CC=CC=C1 | C6H7N
reactant | CCl4 | 20 mL | C(Cl)(Cl)(Cl)Cl | CCl4
reactant | CCl4 | 170 mL | C(Cl)(Cl)(Cl)Cl | CCl4
product | 2,2,2-trifluoro-N-phenyl-acetimidoyl chloride | 19 g | FC(C(=NC1=CC=CC=C1)Cl)(F)F | C8H5ClF3N
